US06225306B1
(3aR)-5-[4-[[2-(4-Tolyl) Benzoyl]Amino]Benzoyl]-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxaline
The same procedures used in Example 1 were repeated using (3aR)-1,2,3,3a,4,5-hexahydro-pyrrolo[1,2-a]quinoxaline prepared in Reference Example 15 and 4-[[2-(4-tolyl)benzoyl)amino]benzoic acid to give the title compound after recrystallization from ethyl acetate-hexane. Yield 31.7%.

reactant | (3aR)-1,2,3,3a,4,5-hexahydro-pyrrolo[1,2-a]quinoxaline | C1CC[C@H]2N1C1=CC=CC=C1NC2 | C11H14N2
reactant | 4-[[2-(4-tolyl)benzoyl)amino]benzoic acid | C1(=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1)C | C21H17NO3
product | (3aR)-5-[4-[[2-(4-Tolyl) Benzoyl]Amino]Benzoyl]-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxaline | Yield 31.7% | C1(=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3C[C@@H]4N(C5=CC=CC=C35)CCC4)C=C2)C=CC=C1)C | C32H29N3O2
